US07312330B2
B. 7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[3,4-d]pyrimidin-4-amine
A mixture of 4-chloro-7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (0.100 g, 0.000314 mol) tris(dibenzylideneacetone)dipalladium(0) (0.058 g, 0.000063 mol), Cesium Carbonate (0.311 g, 0.000944 mol) and Xantphos (0.018 g, 0.000031 mol) in 1,4-Dioxane (3 mL, 0.04 mol) was stirred at room temperature for 10 minutes in a 5 mL microwave vial. 4-(trifluoromethylsulfonyl)benzenamine (0.15 g, 0.00063 mol) was then added as a solution in dioxane (0.5 mL) and the mixture was stirred for an additional 5 minutes. The mixture was heated via microwave in a sealed tube at 140° C. for 30 minutes, allowed to cool, and reduced in vacuo. The resulting black solid was taken up in ethyl acetate (50 mL) and washed with brine and water (2×50 mL), dried over magnesium sulfate, and reduced in vacuo. The mixture was purified by flash chromatography using an ethyl acetate:hexanes (0-100%) gradient. The combined pure fractions were reduced in vacuo to yield the desired product as a tan solid (0.087 g).

reactant | 4-chloro-7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.000314 mol, 0.100 g | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2C(F)(F)F | C13H10ClF3N4
reactant | Cesium Carbonate | 0.000944 mol, 0.311 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 0.000031 mol, 0.018 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 4-(trifluoromethylsulfonyl)benzenamine | 0.00063 mol, 0.15 g | FC(S(=O)(=O)C1=CC=C(C=C1)N)(F)F | C7H6F3NO2S
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-Dioxane | 0.04 mol, 3 mL | O1CCOCC1 | C4H8O2
product | 7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[3,4-d]pyrimidin-4-amine | 0.087 g | FC(C=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)(F)F | C20H15F6N5O2S
